US07317112B2
Preparation of n-propyl-N-4-pyridylsulphonamide
47.6 g of 4-aminopyridine (0.506 mol) and 70.0 ml of triethylamine (51.1 g, 0.506 mol) were dissolved at 50° C. in 500 ml of THF. Likewise at 50° C., 57.3 ml of n-propanesulphonyl chloride (72.2 g, 0.506 mol) were added dropwise to this solution over the course of 1 h. After 19 h of stirring at 50° C. the reaction mixture was diluted with 500 ml of methylene chloride and extracted once with 500 ml of 1 N NaOH. The aqueous phase was adjusted to a pH of 5-6 with concentrated HCl, 100 ml of ethanol were added and then the mixture was extracted 5 times with 200 ml of methylene chloride. These organic phases were dried over magnesium sulphate and then the methylene chloride was removed by distillation. The 74 g of crude product obtained were recrystallized from acetonitrile. This gave 20.8 g of clean product. The constitution of the compound was verified by NMR spectroscopy.

reactant | 4-aminopyridine | 0.506 mol, 47.6 g | NC1=CC=NC=C1 | C5H6N2
reactant | triethylamine | 0.506 mol, 70.0 ml, 51.1 g | C(C)N(CC)CC | C6H15N
reactant | n-propanesulphonyl chloride | 0.506 mol, 57.3 ml, 72.2 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | n-propyl-N-4-pyridylsulphonamide | 74 g | C(CC)S(=O)(=O)NC1=CC=NC=C1 | C8H12N2O2S
